US04179505
A mixture of 4.1 parts of 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-amine, 1 part of 1-isocyanatobutane and 180 parts of tetrahydrofuran is stirred and refluxed over week-end. After cooling to room temperature, the reaction mixture is filtered and the filtrate is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from ethanol. The product is filtered off, washed with ethanol and with 2,2'-oxybispropane, and dried, yielding 3.4 parts (66.7%) of N-butyl-N'-{5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-yl}urea; mp. 195.8° C.

reactant | 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-amine | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(=N2)N)C)C=C1)C1=CC=CC=C1 | C26H29N5
reactant | 1-isocyanatobutane | N(=C=O)CCCC | C5H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-butyl-N'-{5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-yl}urea | 66.7% | C(CCC)NC(=O)NC1=NC2=C(N1C)C=CC(=C2)CN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2 | C31H38N6O
